US07687495B2
b) 3-[(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionic acid
To a solution of 8.62 g of 3-[(2S,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionic acid methyl ester in 20 ml tetrahydrofuran and 50 ml ethanol are added 60 ml of a 20% sodium hydroxide solution. The reaction mixture is stirred for 4 hours at 65° C. The organic solvents are evaporated under reduced pressure and the remaining solution is acidified with 6M aqueous hydrochloric acid until pH 2. This mixture is extracted with 200 ml ethyl acetate (3×). The combined organic layers are washed with brine and dried with sodiumsulfate. The organic layer is filtered and evaporated under reduced pressure. The residue is purified by flash chromatography (SiO2 60 F) to afford the title compound as a colourless foam. Rf=0.27 (EtOAc-heptane 3:1); Rt=5.10.

reactant | 3-[(2S,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionic acid methyl ester | 8.62 g | COC(C(C[C@H]1N(C[C@@H]([C@H](C1)C1=CC=C(C=C1)OC)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)(C)C)=O | C38H50N2O8S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-[(2S,4R,5R)-4-(4-Methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-2,2-dimethyl-propionic acid | COC1=CC=C(C=C1)[C@H]1C[C@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC(C(=O)O)(C)C | C37H48N2O8S
